US05360813
3-(4-Acetamidobenzenesulfonamido )-2-(2,4-dichlorophenyl)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol
Following the procedure described in the preceeding examples but using 3-amino-2-(2,4-dichlorophenyl)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol and 4-acetamidobenzenesulfonylchloride, the title compound was obtained in a similar yield:

reactant | 3-amino-2-(2,4-dichlorophenyl)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol | NCC(CN1N=CN=C1)(O)C1=C(C=C(C=C1)Cl)Cl | C11H12Cl2N4O
reactant | 4-acetamidobenzenesulfonylchloride | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)Cl | C8H8ClNO3S
product | 3-(4-Acetamidobenzenesulfonamido )-2-(2,4-dichlorophenyl)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)NCC(CN1N=CN=C1)(O)C1=C(C=C(C=C1)Cl)Cl | C19H19Cl2N5O4S
